US09233985B2
A stirred solution of (1S,2R)-1-acetamido-2-allyl-N-tert-butylcyclopentanecarboxamide (0.599 g, 2.25 mmol) in anhydrous methylene chloride (9 mL) under nitrogen was treated with Ir2Cl2(COD)2 (45 mg, 0.07 mmol) and DiPhos (54 mg, 0.136 mmol) and stirred at room temperature for 30 min. 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (0.65 mL, 4.48 mmol) was added dropwise and the solution stirred at room temperature for 20 h. The reaction mixture was poured into water (20 mL) and extracted with ethyl acetate (40 mL, then 2×15 mL), and the combined organic solution was washed with saturate aqueous sodium chloride (30 mL), dried over MgSO4, and concentrated. The residue was dissolved in minimal dichloromethane and purified by flash column chromatography (silica gel, 40-50% ethyl acetate in heptane) to afford (1S,2S)-1-acetamido-N-tert-butyl-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)cyclopentanecarboxamide (0.695 g, 78%) as a white solid. 1H NMR (CDCl3, 300 MHz) δ 6.72 (br s, NH, 1 H), 5.68 (br s, NH, 1 H), 2.46-2.29 (m, 2 H), 2.10-2.19 (m, 1 H), 2.02 (s, 3 H), 2.00-1.88 (m, 1 H), 1.75-1.60 (m, 3 H), 1.52-1.38 (4 H), 1.32 (s, 9 H), 1.31 (s, 12 H), 0.81-0.70 (m, 2 H); MS (+CI): m/z for C21H39BN2O4: expected 394.3; found 395.2 (M+H)+.

reactant | (1S,2R)-1-acetamido-2-allyl-N-tert-butylcyclopentanecarboxamide | 2.25 mmol, 0.599 g | C(C)(=O)N[C@@]1([C@H](CCC1)CC=C)C(=O)NC(C)(C)C | C15H26N2O2
reactant | 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 4.48 mmol, 0.65 mL | CC1(OBOC1(C)C)C | C6H13BO2
reactant | water | 20 mL | O | H2O
solvent | methylene chloride | 9 mL | C(Cl)Cl | CH2Cl2
catalyst | DiPhos | 0.136 mmol, 54 mg | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C26H24P2
product | (1S,2S)-1-acetamido-N-tert-butyl-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)cyclopentanecarboxamide | 0.695 g, 78% | C(C)(=O)N[C@@]1([C@H](CCC1)CCCB1OC(C(O1)(C)C)(C)C)C(=O)NC(C)(C)C | C21H39BN2O4
